US07960394B2
2-{4-[{1-Cyclopropylpiperidin-4-yl)oxy]phenyl}-3-ethyl-8-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 85 but using 2-amino-3-methylbenzoic acid, ethylamine, 4-hydroxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and [(1-ethoxycyclopropyl)oxy](trimethyl)silane.

reactant | 2-amino-3-methylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | ethylamine | C(C)N | C2H7N
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | [(1-ethoxycyclopropyl)oxy](trimethyl)silane | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
product | 2-{4-[{1-Cyclopropylpiperidin-4-yl)oxy]phenyl}-3-ethyl-8-methylquinazolin-4(3H)-one | C1(CC1)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1CC)=O)C | C25H29N3O2
